US06432656B1
Preparation of (R)-N-[2-Hydroxy-3-(3-chloro-2-cyanophenoxy)propyl]-1,1-dimethyl-2-(4-methoxyphenyl)-ethylamine Hydrochloride, Compound 109
Using the method of Example 6, supra, (R)-3-chloro-2-cyanophenyl glycidyl ether (0.7 g, 3.34 mmol) and 1,1-dimethyl-(4-methoxyphenyl)ethylamine (0.72 g, 4.0 mmol) were used to prepare 570 mg of the title compound as a white solid: 1H-NMR (CDCl3) 9.65 (1H, br s), 8.2 (1H, br s), 7.4 (1H, t), 7.15 (2H, d), 7.03 (1H, d), 6.95 (1H, d), 6.8 (2H, d), 4.8 (1H, m), 4.3 (2H, d), 3.75 (3H, s), 3.4 (2H, m), 3.13 (2H, dd), 1.44 (3H, s), 1.40 (3H, s); 13C-NMR 161.9, 159.4, 138.2, 135.1, 132.4, 126.8, 122.8, 114.4, 114.2, 111.6, 104.0, 71.8, 66.0, 61.9, 55.8, 45.4, 43.9, 23.5, 23.3.

reactant | (R)-3-chloro-2-cyanophenyl glycidyl ether | 3.34 mmol, 0.7 g | C([C@H]1CO1)OC1=C(C(=CC=C1)Cl)C#N | C10H8ClNO2
reactant | 1,1-dimethyl-(4-methoxyphenyl)ethylamine | 4.0 mmol, 0.72 g | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | (R)-N-[2-Hydroxy-3-(3-chloro-2-cyanophenoxy)propyl]-1,1-dimethyl-2-(4-methoxyphenyl)-ethylamine Hydrochloride | 570 mg | Cl.O[C@H](CNC(CC1=CC=C(C=C1)OC)(C)C)COC1=C(C(=CC=C1)Cl)C#N | InChI=1S/C21H25ClN2O3.ClH/c1-21(2,11-15-7-9-17(26-3)10-8-15)24-13-16(25)14-27-20-6-4-5-19(22)18(20)12-23;/h4-10,16,24-25H,11,13-14H2,1-3H3;1H/t16-;/m1./s1
